US06441017B1
Step B: N-Acetyl-3-amino-5-nitroquinoline
N-Acetyl-3-aminoquinoline, as described above in Step A, (9.76 g, 52.41 mmol) was dissolved in neat H2SO4 (100 mL) and cooled to 0° C. HNO3 (6.6 mL, 104.8 mmol) was slowly added over 20 minutes and the reaction was stirred at 0° C. for 45 min, then at ambient temperature 45 min. The reaction mixture was poured onto ice, solid KOH was added to neutralize the acid, and the mixture was stirred for 18 hours. The mixture was extracted with EtOAc (2×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was treated with hot EtOAc and filtered. The filtrate was concentrated and crystallized from EtOAc/Hex (3×). The recovered solids were combined and dried in vacuo to yield the above-titled compound.

reactant | N-Acetyl-3-aminoquinoline | C(C)(=O)N1CC(=CC2=CC=CC=C12)N | C11H12N2O
reactant | HNO3 | 104.8 mmol, 6.6 mL | [N+](=O)(O)[O-] | HNO3
reactant | KOH | [OH-].[K+]
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | N-Acetyl-3-amino-5-nitroquinoline | C(C)(=O)N1CC(=CC2=C(C=CC=C12)[N+](=O)[O-])N | C11H11N3O3
